US07723333B2
2-Butyl-4-(hexylamino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A solution of 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.110 g, 0.33 mmol) and hexylamine (0.100 g, 0.984 mmol) in DMF (0.5 mL) was heated in a microwave reactor at 140° C. for 25 mins. The residue was purified by preparative HPLC (Ace C8 column, 0.1M NH4OAc/MeCN, gradient) to give the title compound (0.060 g, 47%); 1H-NMR (400 MHz, CD3CN): δ 7.49-7.53 (m, 5H), 5.85 (bs, 1H), 3.66 8 (t, 2H), 2.85 (dd, 2H), 1.71-1.80 (m, 2H), 1.37-1.48 (m, 2H), 1.13-1.34 (m, 4H), 0.94-1.09 (m, 7H), 0.82 (t, 3H); Mass Spectrum: M+H 365.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.33 mmol, 0.110 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | hexylamine | 0.984 mmol, 0.100 g | C(CCCCC)N | C6H15N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-Butyl-4-(hexylamino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.060 g, 47% | C(CCC)N1S(C(=C(C1=O)NCCCCCC)C1=CC=CC=C1)(=O)=O | C19H28N2O3S
